US04185033
A solution of 2.78 g of 5-nitroisophthaloyl chloride in 50 ml of ether is added to a stirred mixture of 6.5 g of 8-(3-amino-p-toluamido)-1,3,5-naphthalenetrisulfonic acid, trisodium salt, 3.2 g of sodium acetate trihydrate, 50 ml of water and 40 ml of ether over a 40 minute period. The mixture is stirred for an additional 30 minutes, then is evaporated. The residue is dissolved in 20 ml of hot water, then is placed in an icebox overnight. The precipitate is collected, washed with ice-water, 80% aqueous ethanol, ethanol and ether and is dried to yield 2.9 g of 2'-methyl-5-nitro-5'-(4,6,8-trisulfo-1-naphthylcarbamoyl)isophthalanilic acid, trisodium salt.

reactant | 5-nitroisophthaloyl chloride | 2.78 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)Cl)C1)C(=O)Cl | C8H3Cl2NO4
reactant | 8-(3-amino-p-toluamido)-1,3,5-naphthalenetrisulfonic acid | 6.5 g | NC=1C=C(C=CC1C(=O)NC1=CC=C(C=2C=C(C=C(C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)C | C18H16N2O10S3
reactant | trisodium salt | C1=CC(=CC=C1N=NC2C(=NN(C2=O)C3=CC=C(C=C3)S(=O)(=O)[O-])C(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | sodium acetate trihydrate | 3.2 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 2'-methyl-5-nitro-5'-(4,6,8-trisulfo-1-naphthylcarbamoyl)isophthalanilic acid | 2.9 g | CC1=C(NC(C=2C=C(C(=O)O)C=C(C2)[N+](=O)[O-])=O)C=C(C=C1)C(NC1=CC=C(C2=CC(=CC(=C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)=O | C26H19N3O15S3
